US07132539B2
Preparation of 1-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-2-amino-3-(4-fluorophenyl)-propan-1-one (54):
[2-(2-Allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester, 53, (0.67 g, 1.4 mmol) is dissolved in methylene chloride (21 mL), and trifluoroacetic acid (9 mL) is added. The reaction mixture is stirred for 1 hourr and then concentrated in vacuo. MeOH (40 mL) is added and the solvent is removed in vacuo to afford the desired product in approximately quanitative yield as a viscous oil which is used without further purification.

reactant | [2-(2-Allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1C(CC(C1)OCC1=CC=CC=C1)CC=C)CC1=CC=C(C=C1)F)=O | C28H35FN2O4
reactant | trifluoroacetic acid | 9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 21 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-2-amino-3-(4-fluorophenyl)-propan-1-one | C(C=C)C1N(CC(C1)OCC1=CC=CC=C1)C(C(CC1=CC=C(C=C1)F)N)=O | C23H27FN2O2
